US06362178B1
2-[2-Ethoxy-5-(4-methyl-piperazine-1-sulphonyl)-phenyl]-5,7-dimethyl-3H-imidazo[5,1-f]-[1,2,4]triazin-4-one
0.1 g (0.26 mmol) of 4-ethoxy-3-(5,7-dimethyl4-oxo-3,4-dihydroimidazo-[5,1-f][1,2,4]triazin-2-yl)-benzenesulphonyl chloride are dissolved in 10 ml of dichloromethane and cooled to 0° C. After addition of a spatula tip of DMAP, 80 mg (0.784 mmol) of N-methylpiperazine are added and the reaction mixture is stirred at room temperature overnight. The mixture is diluted with dichloromethane, the organic phase is washed with ammonium chloride solution and dried over sodium sulphate and the solvent is removed under reduced pressure. The residue is chromatographed over silica gel (dichloromethane/methanol 9:1).

reactant | 4-ethoxy-3-(5,7-dimethyl4-oxo-3,4-dihydroimidazo-[5,1-f][1,2,4]triazin-2-yl)-benzenesulphonyl chloride | 0.26 mmol, 0.1 g | C(C)OC1=C(C=C(C=C1)S(=O)(=O)Cl)C1=NN2C(C(N1)=O)=C(N=C2C)C | C15H15ClN4O4S
reactant | N-methylpiperazine | 0.784 mmol, 80 mg | CN1CCNCC1 | C5H12N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-[2-Ethoxy-5-(4-methyl-piperazine-1-sulphonyl)-phenyl]-5,7-dimethyl-3H-imidazo[5,1-f]-[1,2,4]triazin-4-one | C(C)OC1=C(C=C(C=C1)S(=O)(=O)N1CCN(CC1)C)C1=NN2C(C(N1)=O)=C(N=C2C)C | C20H26N6O4S
